US05013777
Preparation of 2-Sulfobenzoic Acid Monosodium Salt (Compound I-32)
20 g (108.6 mmoles) of 2-sulfobenzoic acid cyclic anhydride were added to a beaker containing 250 mL of water. After the reactant dissolved, 4.4 g (110 mmoles) of sodium hydroxide were added. After the water was removed, 22.9 g (94% of theory) of a white powder product, I-32, the title compound, were recovered.

reactant | 2-sulfobenzoic acid cyclic anhydride | 108.6 mmoles, 20 g | C1=CC=C2C(=C1)C(=O)OS2(=O)=O | C7H4O4S
reactant | sodium hydroxide | 110 mmoles, 4.4 g | [OH-].[Na+]
solvent | water | 250 mL | O | H2O
product | 2-Sulfobenzoic Acid Monosodium Salt | [Na+].S(=O)(=O)(O)C1=C(C(=O)[O-])C=CC=C1 | InChI=1S/C7H6O5S.Na/c8-7(9)5-3-1-2-4-6(5)13(10,11)12;/h1-4H,(H,8,9)(H,10,11,12);/q;+1/p-1
